US06660873B2
1-(4-Fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carboxylic Acid
Zink (38 g, 0.58 mol) was suspended in acetic acid (400 mL). The mixture was heated to 60° C. 2,4-dicarboxy-4′-fluoro-benzophenone (21 g, 0.075 mol) was added in portions of 5 grams. After addition, the reaction mixture was heated at reflux temperature for two hours. The suspension was filtered while it was still hot. The filtrate was added to ice-water (1 kg) and the title compound was isolated by filtration. Yield 17.8 g (90%). 1H NMR (d6-DMSO): δ 6.84 (s, 1H), 7.17 (t, 2H), 7.43 (dd, 2H), 7.59 (d, 1H), 8.31 (d, 1H), 8.35 (s, 1H).

reactant | 2,4-dicarboxy-4′-fluoro-benzophenone | 0.075 mol, 21 g | C(=O)(O)C1=C(C(=O)C2=CC=C(C=C2)F)C=CC(=C1)C(=O)O | C15H9FO5
solvent | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
product | 1-(4-Fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carboxylic Acid | FC1=CC=C(C=C1)C1OC(C2=CC(=CC=C12)C(=O)O)=O | C15H9FO4
